US08912208B2
To 60 mg (0.1 mmol) (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylcarbamoyl)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester in THF/H2O (10 mL; 4:1), 5 mL (4M) aqueous Lithium Hydroxide solution was added and the mixture stirred at 60° C. for 5 hours. Acidified with concentrated hydrochloric acid which precipitated the desired compound. Filtered and dried under vacuum to afford (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylcarbamoyl)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid, which was subsequently dissolved in methanol (5 mL) one equivalent of potassium hydroxide and 2 mL of H2O were added and the resulting mixture was stirred at 40 C for 2 hours. Evaporated to dryness to afford (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylcarbamoyl)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid as the potassium salt: M+1=484.1. HRMS=484.1822. 1H NMR (400 MHz, MeOD) ppm 0.79 (d, J=7.33 Hz, 1 H) 1.11 (td, J=12.44, 2.91 Hz, 3 H) 1.43-1.55(m, 2 H) 1.67-1.78 (m, J=7.14, 7.14, 6.95, 6.57 Hz, 2 H) 1.79-1.89 (m, 3 H) 2.02 (d, J=7.33 Hz, 2 H) 2.14(t, J=7.33 Hz, 1 H) 2.47 (s, 1 H) 7.29 (d, J=8.34 Hz, 2 H) 7.75 (d, J=8.59 Hz, 1 H) 7.88-7.95 (m, 2 H) 8.31(dd, J=8.46, 2.40 Hz, 1 H) 8.43 (dd, J=8.46, 2.15 Hz, 1 H) 8.97 (d, J=2.27 Hz, 1 H) 9.08 (d, J=1.52 Hz, 1H)

reactant | (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylcarbamoyl)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | 0.1 mmol, 60 mg | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)C(NC=1C=NC(=CC1)C(F)(F)F)=O)=O | C27H26F3N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF H2O | 10 mL | C1CCOC1.O
solvent | Lithium Hydroxide | 4M, 5 mL | [OH-].[Li+]
product | (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylcarbamoyl)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid | FC(C1=CC=C(C=N1)NC(=O)C=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O)(F)F | C26H24F3N3O3
